### PR TITLE
Prove suspend_corres

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This proves `suspend_corres`.

I reordered the abstract definition of `suspend` to make the corres proof more straightforward. I also introduced the definition `sched_context_cancel_yield_to`, in analogy with the Haskell and C definitions

### CODE REVIEW

File: proof/refine/ARM/IpcCancel_R.thy [hunk 1]
```diff
@@ -1384,42 +1384,164 @@ lemma asUser_valid_inQ_queues[wp]:
...
+           apply wp
+          apply wp
+         apply (rule corres_rel_imp)
+          apply (rule corres_when)
+           apply clarsimp
+          apply (rule reprogram_timer_corres)
+         apply metis
+        apply clarsimp
+        apply wp
+       apply (rule hoare_when_wp)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/IpcCancel_R.thy:1487]: Can this little triple be replaced with `wpsimp`?

**Review by MitchellBuckley — APPROVED** [review]
I can't find much to comment on. Looks good!

**Review by mbrcknl — APPROVED** [review]

**Review by mktnk3 — APPROVED** [review]
Nice work! Thanks, Michael.
